US07605171B2
Step A: Ethyl 3-(3-methoxy-2-methylphenyl)-3-oxopropanoate
Thionyl chloride (118 mL) was added to 3-methoxy-2-methyl benzoic acid (98.8 g, 595 mmol) and heated to reflux. After 2 hr, the reaction mixture was cooled to ambient temperature and concentrated in vacuo. The residue was azeotroped with toluene (2×300 mL) and the resultant solid set aside. A suspension of ethyl malonate potassium salt (208 g, 1.22 mol) in acetonitrile (1.50 L) cooled to 5° C., triethylamine (166 mL, 1.49 mol) were added followed by MgCl2 (142 g, 1.49 mol). The cooling bath was removed and the mixture stirred for 3.5 hr at ambient temperature. The mixture was re-cooled to 5° C., and a solution of the aforementioned acid chloride in acetonitrile (100 mL) was added over 10 min. The mixture was warmed to ambient temperature, stirred for 15 hr, concentrated in vacuo and azeotroped with toluene (2×mL). The residue was suspended in EtOAc (750 mL) and toluene (750 mL), cooled in an ice bath and 4 N HCl (750 mL) was added slowly. The cooling bath was removed and the biphasic mixture was stirred vigorously for 30 min. The layers were separated, and the organic layer was washed with sat NaHCO3 (2×1.0 L) and dried over MgSO4. The mixture was filtered, concentrated in vacuo, and purified by flash chromatography (5, 10% EtOAc/heptane) on SiO2 to afford 138 g of the title compound as a pale yellow liquid: 1H NMR (500 MHz, CDCl3) indicated a mixture of keto ester and enol in a 2.5 1 ratio. For keto ester: δ 1.23 (t, 3H, J=7.2 Hz), 2.34 (s, 3H), 3.85 (s, 3H), 3.89 (s, 2H), 4.17 (q, 2H, J=7.1 Hz), 6.97 (d, 1H, J=7.8 Hz), 7.14 (d, 1H, J=8.7 Hz), 7.22 (d, 1H, J=7.9 Hz).

reactant | Thionyl chloride | 118 mL | S(=O)(Cl)Cl | Cl2OS
reactant | 3-methoxy-2-methyl benzoic acid | 595 mmol, 98.8 g | COC=1C(=C(C(=O)O)C=CC1)C | C9H10O3
reactant | ethyl malonate potassium salt | 1.22 mol, 208 g | [K+].C(CC(=O)[O-])(=O)OCC
reactant | triethylamine | 1.49 mol, 166 mL | C(C)N(CC)CC | C6H15N
reactant | MgCl2 | 1.49 mol, 142 g | [Mg+2].[Cl-].[Cl-]
solvent | acetonitrile | 1.50 L | C(C)#N | C2H3N
product | Ethyl 3-(3-methoxy-2-methylphenyl)-3-oxopropanoate | 138 g | COC=1C(=C(C=CC1)C(CC(=O)OCC)=O)C | C13H16O4
